US07820680B2
To a solution of the HCl salt of racemic-(6R,8aS)-6-phenylhexahydropyrrolo[1,2-a]pyrazin-4(1H)-one (0.25 g, 0.99 mmol) and DIEA (0.345 mL, 1.99 mmol) in dichloromethane (4 mL) at ambient temperature was added isopropyl isocyanate (0.146 mL, 1.48 mmol). The mixture was stirred at ambient temperature for 18 h. The solvent was removed under vacuum and the residue was partitioned between ethyl acetate and brine. The EtOAc layer was separated, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Concentration of appropriate fractions afforded (6R,8aS)-N-isopropyl-4-oxo-6-phenylhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide. HPLC RT=2.68 min (Method A); ES MS (M+H)=302.3.

reactant | HCl | Cl | ClH
reactant | racemic-(6R,8aS)-6-phenylhexahydropyrrolo[1,2-a]pyrazin-4(1H)-one | 0.99 mmol, 0.25 g | C1(=CC=CC=C1)C1CCC2N1C(CNC2)=O | C13H16N2O
reactant | DIEA | 1.99 mmol, 0.345 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropyl isocyanate | 1.48 mmol, 0.146 mL | C(C)(C)N=C=O | C4H7NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (6R,8aS)-N-isopropyl-4-oxo-6-phenylhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide | C(C)(C)NC(=O)N1C[C@H]2N(C(C1)=O)[C@H](CC2)C2=CC=CC=C2 | C17H23N3O2
